US09193723B2
N′-(3,3-dimethylbutanoyl)-4-nitrobenzohydrazide
A suspension of 4-nitrobenzohydrazide (0.500 g, 2.76 mmol), and 4-methylmorpholine (0.455 ml, 4.14 mmol) were stirred in dichloromethane (20 ml). 3,3-Dimethylbutanoyl chloride (0.422 ml, 3.04 mmol) was added and the reaction mixture was stirred for 2 hours. Normal phase chromatography of the crude reaction mixture gave the title compound.

reactant | 4-nitrobenzohydrazide | 2.76 mmol, 0.500 g | [N+](=O)([O-])C1=CC=C(C(=O)NN)C=C1 | C7H7N3O3
reactant | 4-methylmorpholine | 4.14 mmol, 0.455 ml | CN1CCOCC1 | C5H11NO
reactant | 3,3-Dimethylbutanoyl chloride | 3.04 mmol, 0.422 ml | CC(CC(=O)Cl)(C)C | C6H11ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N′-(3,3-dimethylbutanoyl)-4-nitrobenzohydrazide | CC(CC(=O)NNC(C1=CC=C(C=C1)[N+](=O)[O-])=O)(C)C | C13H17N3O4
